US04031069
Nα-t-Butoxycarbonyl-L-tryptophyl-O-benzyl-L-seryl-O-benzyl-L-tyrosyl-D-valine resin is prepared according to the procedure of Example 1 from Nα-t-butoxycarbonyl-D-valine resin, 11 g., 5 mmol, reacted successively with (1) 3.5 g., 9.4 mmol, of Nα-t-butoxycarbonyl-O-benzyl-L-tyrosine and 2 g., 9.7 mmol, of dicyclohexylcarbodiimide, (2) 3 g., 9.8 mmol, of Nα-t-butoxycarbonyl-O-benzyl-L-serine and 2 g. of dicyclohexylcarbodiimide and (3) 3 g., 9.85 mmol, of Nα-t-butoxycarbonyl-L-tryptophan and 2 g. of dicyclohexylcarbodiimide.

reactant | Nα-t-butoxycarbonyl-D-valine | C(C)(C)(C)OC(=O)N[C@H](C(C)C)C(=O)O | C10H19NO4
reactant | Nα-t-butoxycarbonyl-O-benzyl-L-tyrosine | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)O | C21H25NO5
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | Nα-t-butoxycarbonyl-O-benzyl-L-serine | C(C)(C)(C)OC(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)O | C15H21NO5
reactant | Nα-t-butoxycarbonyl-L-tryptophan | C(C)(C)(C)OC(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C16H20N2O4
product | Nα-t-Butoxycarbonyl-L-tryptophyl-O-benzyl-L-seryl-O-benzyl-L-tyrosyl-D-valine | C(C)(C)(C)OC(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N[C@H](C(C)C)C(=O)O | C47H55N5O9
